US07132456B2
Prepared in the same manner as described for example 1. A solution of 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid (0.85 g, 2.33 mmol, 1 eq.) in anhydrous THF was treated with 1,1′-carbonyldiimidazole (0.40 g, 2.45 mmol, 1.05 eq.) and warmed as described. The reaction was allowed to cool and then treated with 4-dimethylaminobutylamine (0.33 g, 2.80 mmol, 1.2 eq.). The reaction was treated as described in example 1 to give a yellow oil. The oil was purified by silica gel flash chromatography using 5% 2M NH3 in methanol in chloroform as the mobile phase. Fractions containing the product were pooled and the solvent removed in vacuo leaving 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid (4-dimethylamino-butyl)-amide (1.06 g, 98% yield) as a light yellow oil.

reactant | 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid | 2.33 mmol, 0.85 g, 1 eq. | O(C1=CC=CC=C1)CCSCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C22H20O3S
reactant | 1,1′-carbonyldiimidazole | 2.45 mmol, 0.40 g, 1.05 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-dimethylaminobutylamine | 2.80 mmol, 0.33 g, 1.2 eq. | CN(CCCCN)C | C6H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-2-carboxylic acid (4-dimethylamino-butyl)-amide | 1.06 g, 98% yield | CN(CCCCNC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CSCCOC1=CC=CC=C1)C | C28H34N2O2S
